US07314936B2
TPAP (161 mg, 0.05 eq.) was added to a solution of 4-(2,5,5-trimethyl-[1,3]dioxan-2-yl)-cyclohexanol (2.22 g, 1 eq.) and NMO (2.28 g, 2 eq.) in MeCN (65 mL). The reaction mixture was stirred at room temperature overnight. Saturated aqueous solution of Na2S2O3 was added to the mixture and the resulting mixture was stirred vigorously for 15 minutes. The separated aqueous phase was extracted with CH2Cl2. The combined organic layer was dried over Na2SO4, filtered through Celite and concentrated. The crude product was purified by silica gel column chromatography (25% to 50% EtOAc/hexanes) to give 4-(2,5,5-trimethyl-[1,3]dioxan-2-yl)-cyclohexanone (1.87 g, 85%).

reactant | 4-(2,5,5-trimethyl-[1,3]dioxan-2-yl)-cyclohexanol | 2.22 g, 1 eq. | CC1(OCC(CO1)(C)C)C1CCC(CC1)O | C13H24O3
reactant | NMO | 2.28 g, 2 eq. | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | MeCN | 65 mL | CC#N | C2H3N
catalyst | TPAP | 161 mg, 0.05 eq. | CCC[N+](CCC)(CCC)CCC.[O-][Ru](=O)(=O)=O
product | 4-(2,5,5-trimethyl-[1,3]dioxan-2-yl)-cyclohexanone | 1.87 g, 85% | CC1(OCC(CO1)(C)C)C1CCC(CC1)=O | C13H22O3
